US05707987
Dimethyl sulfoxide (1.06 ml, 14.9 mmol) was added to a solution of oxalyl chloride (0.648 ml, 7.43 mmol) in methylene chloride (40 ml) at -78° C. in a nitrogen stream over 2 minutes. The resulting reaction solution was stirred at the same temperature for 10 minutes. To this reaction solution, a solution of (2S,4S)-2-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)-4-tritylthiopyrrolidine (2.47 g, 4.45 mmol) in methylene chloride (10 ml) was added dropwise over 5 minutes. This reaction mixed solution was stirred for 10 minutes and then triethylamine (3.11 ml, 22.3 mmol) was added dropwise over 2 minutes. This reaction solution was reverted to room temperature over 30 minutes, brought together with saturated aqueous ammonium chloride to terminate the reaction, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off in vacuo to give a crude product of (2S,4S)-N-(p-nitrobenzyloxycarbonyl)-4-tritylthioprolinal.

reactant | Dimethyl sulfoxide | 14.9 mmol, 1.06 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 7.43 mmol, 0.648 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4S)-2-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)-4-tritylthiopyrrolidine | 4.45 mmol, 2.47 g | OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H30N2O5S
reactant | triethylamine | 22.3 mmol, 3.11 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-N-(p-nitrobenzyloxycarbonyl)-4-tritylthioprolinal | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C=O)C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C32H28N2O5S
